US07612060B2
Step (i): Synthesis of (R)-methyl 2-(3-nitropyridin-2-ylamino)pent-4-ynoate
(R)-1-methoxy-1-oxopent-4-yn-2-aminium chloride (6.16 g, 38 mmol) in DMSO (100 mL) added 2-chloro-3-nitropyridine (9.0 g, 56 mmol) and then 2-chloro-3-nitropyridine (9.0 g, 56 mmol). The reaction mixture was stirred for 5 d. EtOAC (500 mL) was added and the diluted reaction mixture was washed with 4×brine (200 mL), dried, evaporated to give 10 g of crude material which was purified by column chromatograph (silica gel, 20-100% hex/tolune, EtOAc) to give the title compound.

reactant | (R)-1-methoxy-1-oxopent-4-yn-2-aminium chloride | 38 mmol, 6.16 g | [Cl-].COC([C@@H](CC#C)[NH3+])=O
reactant | 2-chloro-3-nitropyridine | 56 mmol, 9.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-chloro-3-nitropyridine | 56 mmol, 9.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | (R)-methyl 2-(3-nitropyridin-2-ylamino)pent-4-ynoate | [N+](=O)([O-])C=1C(=NC=CC1)N[C@@H](C(=O)OC)CC#C | C11H11N3O4
